US04021461
Sodium methoxide (from 200 mg. sodium and 12 ml. methanol) is added dropwise to a stirred solution of 1.8 g. of trans diethyl 3-ethoxycarbonyl-2-methylprop-2-enyl phosphonate (II; R = ethyl, R1 = methyl and R6 = ethoxy) and 1 g. of 3,7-dimethyl-1-nonanal in 50 ml. of dimethylformamide under nitrogen. The reaction mixture is left for one hour at room temperature and then water is added followed by extraction with ether. The ethereal extracts are washed with brine, dried and evaporated to yield trans/cis methyl 3,7,11-trimethyltrideca-2,4-dienoate. The isomeric mixture can be chromatographed on silica or distilled for purification. The isomeric mixture is predominantly trans at C-2,3.

reactant | Sodium methoxide | 12 ml, 200 mg | C[O-].[Na+]
reactant | 3,7-dimethyl-1-nonanal | CC(CC=O)CCCC(CC)C | C11H22O
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | cis methyl 3,7,11-trimethyltrideca-2,4-dienoate | CC(=CC(=O)OC)\C=C/CC(CCCC(CC)C)C | C17H30O2
